US05883284
Production of N,N-dibenzyl-(L)-phenylalanine benzyl ester
25.0 g (151.3 mmol) of (L)-phenylalanine and 66.67 g (482.4 mmol) of potassium carbonate were dissolved in 100 ml of water, and then 57.51 g (454.3 mmol) of benzyl chloride was added thereto and stirred under heat at 95° C. for 19 hours. After having been cooled to room temperature, this was subjected to phase separation with 67 ml of n-heptane and 50 ml of water. The organic layer thus separated was washed two times with 50 ml of a solution of methanol/water (=1/2) and then dried with anhydrous sodium sulfate. This was filtered and concentrated to obtain 61.64 g (90.5 wt. %, 121.8 mmol) of the above-entitled compound. The yield was 84.7%.

reactant | (L)-phenylalanine | 151.3 mmol, 25.0 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | potassium carbonate | 482.4 mmol, 66.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 454.3 mmol, 57.51 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 100 ml | O | H2O
product | N,N-dibenzyl-(L)-phenylalanine benzyl ester | yield was 84.7% | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C30H29NO2
